US04578381
To 6 g of 2-amino-3-(6-methoxy-2-quinolon-3-yl)propionic acid hydrochloride was added 60 ml of 47%-hydrobromic acid, and the mixture was refluxed for 7 hours. After the reaction mixture was cooled, the crystals precipitated were collected by filtration, then recrystallized from water to obtain 1.8 g of 2-amino-3-(6-hydroxy-2-quinolon-3-yl)proprionic acid hydrobromide in the form of yellowish powdery product.

reactant | 2-amino-3-(6-methoxy-2-quinolon-3-yl)propionic acid hydrochloride | 6 g | Cl.NC(C(=O)O)CC=1C(NC2=CC=C(C=C2C1)OC)=O
reactant | hydrobromic acid | Br | BrH
product | 2-amino-3-(6-hydroxy-2-quinolon-3-yl)proprionic acid hydrobromide | 1.8 g | Br.NC(C(=O)O)CC=1C(NC2=CC=C(C=C2C1)O)=O | InChI=1S/C12H12N2O4.BrH/c13-9(12(17)18)5-7-3-6-4-8(15)1-2-10(6)14-11(7)16;/h1-4,9,15H,5,13H2,(H,14,16)(H,17,18);1H
